US04448965
To THF (250 ml) under N2 with stirring is added cyclopentane-1,3-dione (0.10 mol) and 2,2'-bipyridyl (~3-5 mg) as an indicator. After cooling to -70°, n-butyllithium in hexane is added slowly while the temperature is allowed to rise to -5° near the end of the addition (~130 ml of 1.6 M solution, 0.20 mol). After the pink indicator persists at -5°, the mixture is recooled to -65° and 4-(4-trifluoromethylphenoxy)phenoxyacetyl chloride is added dropwise over 5 min. After 1 hour, the reaction mixture is diluted with water and ether is added. The organic layer is washed with water, dried over sodium sulfate and concentrated in vacuo to give 2-[4-(4-trifluoromethylphenoxy)phenoxyacetyl]cyclopentane-1,3-dione (V; Y is H, Z is CF3, R1 is H and n is one).

reactant | cyclopentane-1,3-dione | 0.10 mol | C1(CC(CC1)=O)=O | C5H6O2
reactant | 2,2'-bipyridyl | ~3-5 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-(4-trifluoromethylphenoxy)phenoxyacetyl chloride | FC(C1=CC=C(OC2=CC=C(OCC(=O)Cl)C=C2)C=C1)(F)F | C15H10ClF3O3
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-[4-(4-trifluoromethylphenoxy)phenoxyacetyl]cyclopentane-1,3-dione | FC(C1=CC=C(OC2=CC=C(OCC(=O)C3C(CCC3=O)=O)C=C2)C=C1)(F)F | C20H15F3O5
